US05939413
To an ice-cooled solution of (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(carboxymethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one (0.15 g), 1-methylhomopiperazine (0.032 g) and 1-hydroxybenzotriazole (0.038 g) in dichloromethane (3 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.055 g). The mixture was stirred at the same temperature for 1 hour and then at room temperature for 16 hours. Water and aqueous sodium bicarbonate solution were added and then the resulting mixture was extracted with dichloromethane. The organic layer was washed successively with aqueous sodium bicarbonate solution, water and brine, and dried over magnesium sulfate. After evaporation in vacuo, the residue (0.13 g) was dissolved in dichloromethane (2 ml). To the solution was added 4N hydrogen chloride in dioxane solution (0.052 ml) under ice-cooling, and the mixture was stirred for 50 minutes at the same temperature. After concentration, ether was added to the residue and the resulting precipitates were collected by filtration, washed with ether, and dried to give (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-5-(1H-indol-3-ylmethyl)-1-[(4-methyl-1-homopiperazinyl)carbonylmethyl]-piperazin-2-one hydrochloride (0.13 g) as an amorphous solid.

reactant | (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-1-(carboxymethyl)-5-(1H-indol-3-ylmethyl)piperazin-2-one | 0.15 g | FC(C=1C=C(C(=O)N2CC(N(C[C@H]2CC2=CNC3=CC=CC=C23)CC(=O)O)=O)C=C(C1)C(F)(F)F)(F)F | C24H19F6N3O4
reactant | 1-methylhomopiperazine | 0.032 g | CN1CCNCCC1 | C6H14N2
reactant | 1-hydroxybenzotriazole | 0.038 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.055 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (5R)-4-[3,5-bis(trifluoromethyl)benzoyl]-5-(1H-indol-3-ylmethyl)-1-[(4-methyl-1-homopiperazinyl)carbonylmethyl]-piperazin-2-one hydrochloride | 0.13 g | Cl.FC(C=1C=C(C(=O)N2CC(N(C[C@H]2CC2=CNC3=CC=CC=C23)CC(=O)N2CCN(CCC2)C)=O)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C30H31F6N5O3.ClH/c1-38-7-4-8-39(10-9-38)26(42)17-40-16-23(13-20-15-37-25-6-3-2-5-24(20)25)41(18-27(40)43)28(44)19-11-21(29(31,32)33)14-22(12-19)30(34,35)36;/h2-3,5-6,11-12,14-15,23,37H,4,7-10,13,16-18H2,1H3;1H/t23-;/m1./s1
